US07223866B2
Raney Nickel suspension (1 mL, Fluka Cat. No. 83440) is added to a solution of the title D compound, 3-ethylsulfanyl-5-naphthalen-1-yl-imidazo[1,5-a]pyridine (268 mg, 0.88 mmol) in ethanol (15 mL) and heated at reflux overnight. Additional Raney Nickel (1 mL) is added, and the reaction mixture is heated at reflux for three days further, until MS showed complete disappearance of the starting material. The catalyst is filtered off and washed with ethanol. The combined filtrates are concentrated under reduced pressure. The residue is purified by flash column chromatography on silica using ethyl ether as the eluant to yield 5-naphthalen-1-yl-imidazo[1,5-a]pyridine as an amber film. The hydrochloride salt is prepared in acetone by addition of an ethereal solution of HCl (1.2 eq.). The resulting precipitate is re-crystallized from acetonitrile to yield 5-naphthalen-1-yl-imidazo[1,5-a]pyridine hydrochloride (m.p. 222–223° C.): 1H-NMR, (MeOH-d4) δ 8.71 (s, 1H), 8.21 (d, J=8.1, 1H), 8.16 (s, 1H), 8.13 (d, J=16.3, 1H), 8.04 (d, J=17, 1H), 7.98–7.70 (m, 2H), 7.61 (dt, J=5.6, 1.2, 1H); 7.53–7.40, m, (3H); 7.28 (d, J=7.7, 1H); 13C-NMR (MeOH-d4) δ 135.8, 135.53, 132.84, 132.68, 131.96, 130.34, 130.13, 129.81, 129.11, 128.15, 127.04, 126.18, 125.60, 124.79, 120.93, 119.43, 116.50, 112.96; MS (M+1)+ 245.

reactant | 3-ethylsulfanyl-5-naphthalen-1-yl-imidazo[1,5-a]pyridine | 0.88 mmol, 268 mg | C(C)SC1=NC=C2N1C(=CC=C2)C2=CC=CC1=CC=CC=C21 | C19H16N2S
catalyst | Raney Nickel | [Ni] | Ni
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | Raney Nickel | 1 mL | [Ni] | Ni
product | 5-naphthalen-1-yl-imidazo[1,5-a]pyridine | C1(=CC=CC2=CC=CC=C12)C1=CC=CC=2N1C=NC2 | C17H12N2
